US07834039B2
TFA (2.0 ml, 26.0 mmol) was added dropwise to a stirred mixture of tert-butyl 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenylsulfonamido)acetate (0.121 g, 0.238 mmol), DCM (5.0 ml) under N2. The mixture was stirred at ambient temperature for 3 hrs then concentrated in vacuo. The resulting solid was triturated in ether, filtered and dried to yield 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenylsulfonamido)acetic acid (46 mg, 0.102 mmol) as a white solid. LCMS (Table 1, Method c) Rt=2.14 min, m/z 450.34 (M−H)−

reactant | TFA | 26.0 mmol, 2.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenylsulfonamido)acetate | 0.238 mmol, 0.121 g | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)OC(C)(C)C | C23H26ClN3O6S
solvent | DCM | 5.0 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenylsulfonamido)acetic acid | 0.102 mmol, 46 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C19H18ClN3O6S
